US07504408B2
1-{3-[(4-{[5-Chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]amino}-6-methoxyquinazolin-7-yl)oxy]propyl}-4-methylpiperazin-2-one
This was prepared by the method described in example 4 but using 1-{3-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]propyl}-4-methylpiperazin-2-one (140 mg, 0.38 mmol), 5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-amine (107 mg, 0.42 mmol) and sodium bis(trimethylsilyl)amide (1.0M in THF, 0.81 ml) in DMF (2 ml). The crude product was purified by column chromatography on silica using increasing concentrations of methanol in dichloromethane as eluent. There was thus obtained the title compound (150 mg, 67%) as a pale orange solid; NMR Spectrum:(DMSOd6) 2.04 (quintet, 2H), 2.20 (s, 3H), 2.59 (t, 2H), 2.72 (t, 2H), 2.91 (s, 2H), 3.30 (s, 3H), 3.32 (t, 2H), 3.47 (t, 2H), 3.53 (t, 2H), 3.94 (s, 3H), 4.14 (t, 2H), 6.14 (s, 2H), 7.07 (s, 1H), 7.15 (s, 1H), 7.83 (s, 1H), 8.32 (s, 1H), 9.49 (s, 1H);

reactant | 1-{3-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]propyl}-4-methylpiperazin-2-one | 0.38 mmol, 140 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1C(CN(CC1)C)=O | C17H21ClN4O3
reactant | 5-chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-amine | 0.42 mmol, 107 mg | ClC1=C(C2=C(OCO2)C(=C1)C#CCCOC)N | C12H12ClNO3
reactant | sodium bis(trimethylsilyl)amide | 1.0M, 0.81 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1-{3-[(4-{[5-Chloro-7-(4-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]amino}-6-methoxyquinazolin-7-yl)oxy]propyl}-4-methylpiperazin-2-one | 150 mg, 67% | ClC1=C(C2=C(OCO2)C(=C1)C#CCCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1C(CN(CC1)C)=O | C29H32ClN5O6
